US08217032B2
1-(2-{4-[2-(2-Fluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine
Dissolve trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester (1.0 g, 1.9 mmol), 2-fluorophenyl boronic acid (532 mg, 3.8 mmol), trans[dichlorobis(triphenylphosphine)]palladium II (266 mg, 0.38 mmol) and cesium fluoride (2.6 g, 17.1 mmol) in 150 mL degassed acetonitrile and heat at 85° C. for 2 hours. Cool the reaction, filter and purify on an SCX column, eluting with 2N ammonia/methanol. Concentrate and purify on a silica column eluting with 1 0-10% gradient of methanol/methylene chloride to give 560 mg (63%) of the title compound: mass spectrum (ion spray) m/z=470 (M+H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester | 1.9 mmol, 1.0 g | COC=1C=C2C=CC(=C(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C26H28F3NO5S
reactant | 2-fluorophenyl boronic acid | 3.8 mmol, 532 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | cesium fluoride | 17.1 mmol, 2.6 g | [F-].[Cs+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.38 mmol, 266 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-{4-[2-(2-Fluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine | 560 mg, 63% | FC1=C(C=CC=C1)C1=C(C2=CC=C(C=C2C=C1)OC)CC1=CC=C(OCCN2CCCCC2)C=C1 | C31H32FNO2
